US06448242B1
Preparation of N,N′-bis(4-piperidinyl)-N,N′-di-methyl-ethylenediamine tetrahydrochloride
10% Palladium on carbon (125 mg) and concentrated hydrochloric acid (1.2 ml; 14 mmol) were added to a solution in water-methanol (4 ml-8 ml) of N,N′-bis(1-benzyl-4-piperidinyl)-N,N′-dimethylethylenediamine (757 mg; 1.7 mmol) synthesized by the above process, and the mixture was stirred for 6 hours in a bath controlled at 55° C. under hydrogen. The catalyst was removed from the reaction mixture by filtration, and the filtrate was concentrated under reduced pressure. The resultant crude crystals were washed with ethanol, thereby obtaining 497 mg (yield: 71%) of the title compound as a colorless crystalline powder [melting point: 275° C. (decomposition)].

reactant | hydrochloric acid | 14 mmol, 1.2 ml | Cl | ClH
reactant | N,N′-bis(1-benzyl-4-piperidinyl)-N,N′-dimethylethylenediamine | 1.7 mmol, 757 mg | C(C1=CC=CC=C1)N1CCC(CC1)N(CCN(C)C1CCN(CC1)CC1=CC=CC=C1)C | C28H42N4
catalyst | Palladium on carbon | 125 mg | [Pd] | Pd
solvent | water methanol | 4 ml-8 ml | O.CO
product | N,N′-bis(4-piperidinyl)-N,N′-di-methyl-ethylenediamine tetrahydrochloride | 497 mg, yield: 71% | Cl.Cl.Cl.Cl.N1CCC(CC1)N(CCN(C)C1CCNCC1)C | InChI=1S/C14H30N4.4ClH/c1-17(13-3-7-15-8-4-13)11-12-18(2)14-5-9-16-10-6-14;;;;/h13-16H,3-12H2,1-2H3;4*1H
